US08350028B2
N6-(2-Methoxy-ethyl)-N2-(5-methyl-furan-2-ylmethyl)-quinoline-2,6-diamine
The title compound, MS: m/e=312.1 (M+H+), was prepared in accordance with the general method of example 1 from 2,6-dichloroquinoline, 5-methyl-2-furanmethanamine and 2-methoxyethylamine.

reactant | 2,6-dichloroquinoline | ClC1=NC2=CC=C(C=C2C=C1)Cl | C9H5Cl2N
reactant | 5-methyl-2-furanmethanamine | CC1=CC=C(O1)CN | C6H9NO
reactant | 2-methoxyethylamine | COCCN | C3H9NO
product | N6-(2-Methoxy-ethyl)-N2-(5-methyl-furan-2-ylmethyl)-quinoline-2,6-diamine | COCCNC=1C=C2C=CC(=NC2=CC1)NCC=1OC(=CC1)C | C18H21N3O2
